US07935819B2
To a solution of 15 mL of trichloromethyl chloroformate (diphosgene) in 500 mL of toluene are added 3 g of 3S charcoal. To this suspension cooled to −20° C. are added 20 g of 3-nitro-4-trifluoromethoxyaniline dissolved in 400 mL of toluene. The reaction mixture is gradually warmed to room temperature and then refluxed for 4 hours. After cooling to room temperature, a suspension of 18 g of dimethylglycine ethyl ester hydrochloride in 150 mL of toluene is added, followed by 66 mL of triethylamine, and the reaction mixture is refluxed for 15 hours. After filtering through Celite, the filtrate is concentrated under reduced pressure and the residue is taken up in 500 mL of dichloromethane, washed with three times 100 mL of water, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is then triturated in diethyl ether and the solid formed is filtered off and dried to give 7.8 g of 5,5-dimethyl-3-[3-nitro-4-(trifluoromethoxy)phenyl]imidazolidine-2,4-dione, the characteristics of which are as follows:

reactant | trichloromethyl chloroformate | 15 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | charcoal | C | CH4
reactant | 3-nitro-4-trifluoromethoxyaniline | 20 g | [N+](=O)([O-])C=1C=C(N)C=CC1OC(F)(F)F | C7H5F3N2O3
reactant | dimethylglycine ethyl ester hydrochloride | 18 g | Cl.C(C)OC(CN(C)C)=O
reactant | triethylamine | 66 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 5,5-dimethyl-3-[3-nitro-4-(trifluoromethoxy)phenyl]imidazolidine-2,4-dione | 7.8 g | CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)OC(F)(F)F)[N+](=O)[O-])=O)C | C12H10F3N3O5
